US05387595
Step E) 2-(SR)-Phenyl-3-(SR)-hydroxy-(SR)-cyclohexylmalonic acid
A solution of 0.87 g (2.6 mmole) of diethyl-2-(SR)-phenyl-3-(SR)-hydroxy-(SR)-cyclohexylmalonate in 12 mL of THF and 7 mL of water was treated with 3.1 mL (7.8 mmole) of 10% aqueous sodium hydroxide and the mixture was heated in an oil bath at 70° C. under nitrogen for 24 hr. The mixture was cooled, 10 mL of water was added and the pH was adjusted to 2 with 2N aqueous HCl. The mixture was extracted with 3×35 mL of ethyl acetate, and the organic layer was dried with magnesium sulfate, filtered and concentrated in vacuo to give 700 mg of a light yellow foam. This material was carried on in Step F below.

reactant | diethyl-2-(SR)-phenyl-3-(SR)-hydroxy-(SR)-cyclohexylmalonate | 2.6 mmole, 0.87 g | C(C)C1(C(CCCC1O)(C(C(=O)[O-])C(=O)[O-])CC)C1=CC=CC=C1
reactant | sodium hydroxide | 7.8 mmole, 3.1 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | 7 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 2-(SR)-Phenyl-3-(SR)-hydroxy-(SR)-cyclohexylmalonic acid | 700 mg | C1(=CC=CC=C1)C1C(CCCC1O)C(C(=O)O)C(=O)O | C15H18O5
